datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccc(C2CCC[NH:10]2)cc1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>Cc1ccc(C2CCC[NH+:10]2[H:20])cc1.O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"N#CSc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>N#CSc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[C@]1([NH3+])C[C@]1(C)[NH2:10].Cc1ccc(N)cc1-c1cc([NH2+:21][H:20])ccc1C>>C[C@]1([NH3+])C[C@]1(C)[NH2+:10][H:20].Cc1ccc(N)cc1-c1cc([NH2:21])ccc1C 10=20;20,21=21",
"C[NH+](C)CCC[NH2+:21][H:20].C[NH2+]CCC[NH2:10]>>C[NH+](C)CCC[NH2:21].C[NH2+]CCC[NH2+:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CCCCC[NH2:10])cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CCCCC[NH2+:10][H:20])cc1 10=20;20,21=21",
"CCCCCC[NH+:21](Cc1ccc(C)cc1)[H:20].O=C1C=C(S(=O)(=O)[O-])c2[nH]ncc2/C1=N/[O-:10]>>CCCCCC[NH:21]Cc1ccc(C)cc1.O=C1C=C(S(=O)(=O)[O-])c2[nH]ncc2/C1=N/[O:10][H:20] 10=20;20,21=21",
"CNC(=O)c1cc[n:10]cc1.O=C(O)[C@@H]1CC[C@@H](C(=O)[O:21][H:20])[Se][Se]1>>CNC(=O)c1cc[n+:10]([H:20])cc1.O=C(O)[C@@H]1CC[C@@H](C(=O)[O-:21])[Se][Se]1 10=20;20,21=21",
"C1CCC(P(C2CCCCC2)(C2CCCCC2)=[O+:21][H:20])CC1.Cc1ccc(-c2oc(-c3ccccc3)c[n:10]2)cc1>>C1CCC(P(C2CCCCC2)(C2CCCCC2)=[O:21])CC1.Cc1ccc(-c2oc(-c3ccccc3)c[n+:10]2[H:20])cc1 10=20;20,21=21",
"CNC(=O)/C=C\C(=O)[O:21][H:20].c1ccc2c(c1)nnn2[O-:10]>>CNC(=O)/C=C\C(=O)[O-:21].c1ccc2c(c1)nnn2[O:10][H:20] 10=20;20,21=21",
"CCN(c1nnn[n:21]1[H:20])[N+](=O)[O-].CCOC(=O)c1ccc([O-:10])cc1>>CCN(c1nnn[n-:21]1)[N+](=O)[O-].CCOC(=O)c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"C[N+:21]1([H:20])CCN(C(c2ccccc2)c2ccccc2)CC1.O=C([O-])/C=C/C[NH2:10]>>C[N:21]1CCN(C(c2ccccc2)c2ccccc2)CC1.O=C([O-])/C=C/C[NH2+:10][H:20] 10=20;20,21=21",
"NCC[NH2:10].O=C([C@H]1C[C@@H]1c1ccc([N+](=O)[O-])cc1)[O:21][H:20]>>NCC[NH2+:10][H:20].O=C([C@H]1C[C@@H]1c1ccc([N+](=O)[O-])cc1)[O-:21] 10=20;20,21=21",
"C#CC#CC=C=CC(O)CCC(=O)[O:21][H:20].Nc1ncc2c(n1)n([C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O)c[n:10]2>>C#CC#CC=C=CC(O)CCC(=O)[O-:21].Nc1ncc2c(n1)n([C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O)c[n+:10]2[H:20] 10=20;20,21=21",
"CC(C)(C)[NH:10]C1CCCCC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(C)[NH+:10](C1CCCCC1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc([N:21](C(C)=S)[H:20])cc1.C[N+](C)(C)Cc1cccc(O)c1[O-:10]>>COc1ccc([N-:21]C(C)=S)cc1.C[N+](C)(C)Cc1cccc(O)c1[O:10][H:20] 10=20;20,21=21",
"CCOCCn1c(CN2CC[NH+](CCCCn3cccn3)CC2)[n:10]c2ccccc21.N[NH+:21](CCOc1ccccc1)[H:20]>>CCOCCn1c(CN2CC[NH+](CCCCn3cccn3)CC2)[n+:10]([H:20])c2ccccc21.N[NH:21]CCOc1ccccc1 10=20;20,21=21",
"COc1cc(OC)nc([N-]S(=O)(=O)c2ccc([O:21][H:20])cc2)n1.O[C@H]1[C@H](O)[C@@H](n2c[n:10]c3ccccc32)OC[C@@H]1O>>COc1cc(OC)nc([N-]S(=O)(=O)c2ccc([O-:21])cc2)n1.O[C@H]1[C@H](O)[C@@H](n2c[n+:10]([H:20])c3ccccc32)OC[C@@H]1O 10=20;20,21=21",
"N#Cc1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>N#Cc1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CS(=O)Cc1cccc[n+:21]1[H:20].O=C1O[C@@H]([C@H](O)[C@@H](O)[C@@H](O)CO)C([O-:10])=C1O>>CS(=O)Cc1cccc[n:21]1.O=C1O[C@@H]([C@H](O)[C@@H](O)[C@@H](O)CO)C([O:10][H:20])=C1O 10=20;20,21=21",
"CNC(=O)c1cccc[n+:21]1[H:20].[NH3+]CCC[Se-:10]>>CNC(=O)c1cccc[n:21]1.[NH3+]CCC[Se:10][H:20] 10=20;20,21=21",
"CCCCCCCP(=O)(CCCCCCC)[N-:10]C1CCCCC1.Cc1nc(-c2ccccc2)oc1[O:21][H:20]>>CCCCCCCP(=O)(CCCCCCC)[N:10](C1CCCCC1)[H:20].Cc1nc(-c2ccccc2)oc1[O-:21] 10=20;20,21=21",
"O=C(c1ccccc1)c1cccc([N+](=O)[O-])c1C(=O)[O:21][H:20].c1ccc(COc2ccc([O-:10])cc2)cc1>>O=C(c1ccccc1)c1cccc([N+](=O)[O-])c1C(=O)[O-:21].c1ccc(COc2ccc([O:10][H:20])cc2)cc1 10=20;20,21=21",
"C[NH+](c1ccccc1)C([O-])[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[H:20]>>C[NH+](c1ccccc1)C([O-])[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"Cc1ccc(C)c([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc(C)c([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1[nH]c[n+:21]([H:20])c1CSCCNC(=[NH2+])NCCCc1c[nH]c[nH+]1.c1ccc(-c2cc(-c3ccccc3)c(NCC[N:10]3CCOCC3)nn2)cc1>>Cc1[nH]c[n:21]c1CSCCNC(=[NH2+])NCCCc1c[nH]c[nH+]1.c1ccc(-c2cc(-c3ccccc3)c(NCC[N+:10]3([H:20])CCOCC3)nn2)cc1 10=20;20,21=21",
"C=CCc1ccccc1OCC(O)C[NH:10]C(C)C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C=CCc1ccccc1OCC(O)C[NH+:10](C(C)C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCC(C)[NH2+:21][H:20].Cc1cccc([NH2:10])c1C>>CCC(C)[NH2:21].Cc1cccc([NH2+:10][H:20])c1C 10=20;20,21=21",
"CC[N+:21](CC)(c1ccc(C)cc1)[H:20].C[NH:10]Cc1ccccn1>>CC[N:21](CC)c1ccc(C)cc1.C[NH+:10](Cc1ccccn1)[H:20] 10=20;20,21=21",
"O=[N+]([O-])/C=C/c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])/C=C/c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC[N+:21](CC(C)O)(CC(C)O)[H:20].O=C1C=CC(Br)=C([O-:10])C=C1>>CCC[N:21](CC(C)O)CC(C)O.O=C1C=CC(Br)=C([O:10][H:20])C=C1 10=20;20,21=21",
"COC(O)[OH+:21][H:20].c1ccc2sc(c3ccc([NH2:10])cc3)nc2c1>>COC(O)[OH:21].c1ccc2sc(c3ccc([NH2+:10][H:20])cc3)nc2c1 10=20;20,21=21",
